US05734048
100 ml of the solvent mixture of ethyl acetate and methyl isobutyl ketone (4:1) already cooled to 5° C. was added to 100 ml of aqueous solution containing clavulanic acid (12 mg/ml). While agitating the mixture, 50% sulfuric acid was slowly added in order to control pH at 1.5. After extracting the said mixture, the extracts are separated. The remaining aqueous solution was further extracted with 100 ml of the solvent mixture three times. Anhydrous magnesium sulfate (10 g) and activated carbon(10 g) were added to the combined extract, and the resultant mixture was agitated at 5° C. for 30 minutes. The mixture was suction-filtered through a filter, and the remaining material was washed with 50 ml of methyl isobutyl ketone. A solution of potassium 2-ethylhexanoate (1.5 equivalent) dissolved in methyl isobutyl ketone was slowly added to the said extract, and the mixture was agitated at 5° C. for 2 hours. The crystalline product was filtered and slurried with acetone at the same temperature for 2 hours. The crystalline was dried in a vacuum desiccator (30° C.) for about 5 hours to obtain 1.07 g of potassium clavulanate (yield: 73%).

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | clavulanic acid | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)O | C8H9NO5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium 2-ethylhexanoate | 1.5 equivalent | C(C)C(C(=O)[O-])CCCC.[K+]
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | potassium clavulanate | 1.07 g, yield: 73% | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+] | InChI=1S/C8H9NO5.K/c10-2-1-4-7(8(12)13)9-5(11)3-6(9)14-4;/h1,6-7,10H,2-3H2,(H,12,13);/q;+1/p-1/b4-1-;/t6-,7-;/m1./s1
